US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 0.70 g (2.61 mmol) of 3-Ethoxy-2-(3-fluoro-4-methoxy-benzoyl)acrylic acid methyl ester, 0.25 g (2.61 mmol) of 3-aminopyridine, and 15 mL of diphenyl ether to yield 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one.

reactant | 3-Ethoxy-2-(3-fluoro-4-methoxy-benzoyl)acrylic acid methyl ester | 2.61 mmol, 0.70 g | COC(C(=COCC)C(C1=CC(=C(C=C1)OC)F)=O)=O | C14H15FO5
reactant | 3-aminopyridine | 2.61 mmol, 0.25 g | NC=1C=NC=CC1 | C5H6N2
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | FC=1C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=CC1OC | C17H13FN2O3
